US04438117
2-Methylthio-4-(4-methoxyphenyl)-5-(4-chlorophenyl)-pyrimidine
A mixture of 2-mercapto-4-(4-methoxyphenyl)-5-(4-chlorophenyl)pyrimidine* (7 g) and potassium carbonate (8 g) in 200 ml acetone was treated with methyl iodide (4.8 ml) and stirred 5 hours at room temperature. The reaction mixture was filtered and concentrated on the rotary evaporator. Chromatography on silica gel and crystallization from ethanol gave the title compound (3.4 g), m.p. 127°-130°. Infrared and H-NMR spectra were consistent with the assigned structure. MS 342 (M+).

reactant | 2-mercapto-4-(4-methoxyphenyl)-5-(4-chlorophenyl)pyrimidine | SC1=NC=C(C(=N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)Cl | C17H13ClN2OS
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 4.8 ml | CI | CH3I
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-Methylthio-4-(4-methoxyphenyl)-5-(4-chlorophenyl)-pyrimidine | 3.4 g | CSC1=NC=C(C(=N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)Cl | C18H15ClN2OS
